US04254134
N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)propanamide (Compound 3c)
A solution of 0.05 mol of 2,3,4,9-tetrahydro-1H-carbazol-2-amine in 450 ml of CHCl3 and 185 ml of saturated aqueous NaHCO3 was stirred vigorously at room temperature and treated dropwise during 30 min with a solution of 0.15 mol of propanoyl chloride in an equal volume of CHCl3. After stirring vigorously for 5 hr, the CHCl3 layer was separated, washed in succession with 10% aqueous K2CO3, H2O, 0.1 N hydrochloric acid, H2O, and dried over anhydrous Na2SO4. The residue remaining after evaporation of the CHCl3 was recrystallized from ethyl acetate to give the title compound, mp 169°-170°.

reactant | 2,3,4,9-tetrahydro-1H-carbazol-2-amine | 0.05 mol | C1C(CCC=2C3=CC=CC=C3NC12)N | C12H14N2
reactant | propanoyl chloride | 0.15 mol | C(CC)(=O)Cl | C3H5ClO
solvent | CHCl3 | 450 ml | C(Cl)(Cl)Cl | CHCl3
solvent | NaHCO3 | 185 ml | C(=O)(O)[O-].[Na+]
product | N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)propanamide | C1C(CCC=2C3=CC=CC=C3NC12)NC(CC)=O | C15H18N2O
